US07420001B2
4-Hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (200 mg) was mixed with iodomethane (0.5 mL), K2CO3 (200 mg) and 2 mL of DMF. The mixture was stirred at room temperature overnight. The mixture was mixed with brine and extracted with ethyl acetate, and the combined ethyl acetate layers were washed with brine. Removal of the solvent gave the crude product that was purified by column chromatographt to give 162 mg (76% yield) of 4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester as amber colored oil.

reactant | 4-Hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C12H12O4
reactant | iodomethane | 0.5 mL | IC | CH3I
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 162 mg, 76% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OC | C13H14O4
